US05821261
Step F: (4S)-4-(Guanidinomethyl)-L-Proline Dihydrochloride
(4S)-1-(tert-Butyloxycarbonyl)-4-[N,N'-bis(tert-butyloxycarbonyl)guanidinomethyl]-L-proline tert-butyl ester (81 mg, 0.149 mmol) was treated with 4N HCl in dioxane (1 mL) at room temperature overnight. The reaction mixture was evaporated under diminished pressure, coevaporated several times with diethyl ether and several times with methanol. The product was dried under high vacuum; yield 38.7 mg (100%). Mass spectrum: m/z 187 (M+1); 400 MHz 1H NMR (CD3OD): δ1.85 (m, 1H); 2.61-2.80 (m, 2H); 3.13 (dd, 1H); 3.58 (dd, 1H); 4.47 (dd, 1H).

reactant | (4S)-1-(tert-Butyloxycarbonyl)-4-[N,N'-bis(tert-butyloxycarbonyl)guanidinomethyl]-L-proline tert-butyl ester | 0.149 mmol, 81 mg | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)CN(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C26H46N4O8
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (4S)-4-(Guanidinomethyl)-L-Proline Dihydrochloride | Cl.Cl.N(C(=N)N)C[C@H]1C[C@H](NC1)C(=O)O | InChI=1S/C7H14N4O2.2ClH/c8-7(9)11-3-4-1-5(6(12)13)10-2-4;;/h4-5,10H,1-3H2,(H,12,13)(H4,8,9,11);2*1H/t4-,5-;;/m0../s1
